US06495549B1
Sodium hydride as a 60% dispersion in oil (6 mg) was added to a solution of (2S)-N-2-[(cis)-2,6-dimethyl-1-piperidinyl]ethyl-1-(6-hydroxy-1,3-benzoxazol-2-yl)-2-piperidinecarboxamide (54.5 mg) [see Preparation 39] in dimethylformamide (2 ml) at 0° C. After 5 minutes 2-iodopropane (0.014 ml) were added. The reaction mixture was stirred at room temperature for 4 hours, after which time sodium hydride (3 mg) followed by 2-iodopropane (0.007 ml) was added. The mixture was stirred for a further 18 hours, after which time the solvent was removed and the residue partitioned between water and diethyl ether. The organic layer was separated, dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent system of 97:3.5:0.5, by volume, dichloromethane/methanol/0.88 aqueous ammonia solution to afford (2S)-N-2-[(cis)-2,6-dimethyl-1-piperidinyl]ethyl-1-(6-isopropoxy-1,3-benzoxazol-2-piperidinecarboxamide (24 mg) as a brown solid.

reactant | Sodium hydride | [H-].[Na+]
reactant | (2S)-N-2-[(cis)-2,6-dimethyl-1-piperidinyl]ethyl-1-(6-hydroxy-1,3-benzoxazol-2-yl)-2-piperidinecarboxamide | 54.5 mg | C[C@@H]1N([C@@H](CCC1)C)CCNC(=O)[C@H]1N(CCCC1)C=1OC2=C(N1)C=CC(=C2)O | C22H32N4O3
reactant | 2-iodopropane | 0.014 ml | IC(C)C | C3H7I
reactant | sodium hydride | 3 mg | [H-].[Na+]
reactant | 2-iodopropane | 0.007 ml | IC(C)C | C3H7I
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-isopropoxy-1,3-benzoxazol 2-piperidinecarboxamide | 24 mg | C(C)(C)OC1=CC2=C(N=CO2)C=C1.N1C(CCCC1)C(=O)N | InChI=1S/C10H11NO2.C6H12N2O/c1-7(2)13-8-3-4-9-10(5-8)12-6-11-9;7-6(9)5-3-1-2-4-8-5/h3-7H,1-2H3;5,8H,1-4H2,(H2,7,9)
